US03952025
A solution of 5.0 g. of 3-(1-pyrrolodinyl)-2-cyclohexan-1-one in 30 ml. of anhydrous dimethylformamide is treated dropwise over twenty minutes under nitrogen with a solution of 6.0 g. of phenacyl bromide in 10 ml. of anhydrous dimethylformamide. The mixture is stirred for 47 hours at 80°C., allowed to cool to ambient temperature, and then poured into water and stirred for 30 minutes. The resulting suspension is extracted with chloroform, the chloroform extracts are combined, washed with water and dried. The solvent is removed and the residue is dried under high vacuum and crystallized from ethanol to yield 4-oxo-2-phenyl-4,5,6,7-tetrahydrobenzo[b]furan, m.p. 132°-134°C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | water | O | H2O
product | 4-oxo-2-phenyl-4,5,6,7-tetrahydrobenzo[b]furan | O=C1CCCC=2OC(=CC21)C2=CC=CC=C2 | C14H12O2
